US07491728B2
A mixture of 2-methyl-3-oxo-butyric acid ethyl ester (50 g, 0.347 mol), ethylene glycol (65 g, 1.05 mol) and p-toluenesulfonic acid monohydrate (0.2 g) in anhydrous toluene (200 mL) was refluxed using a Dean-Stark trap until the theoretical amount of water (6.3 mL) was collected. After cooling, the mixture was extracted with saturated bicarbonate solution (100 mL), water (100 mL×5), and brine (100 mL×2). After drying with sodium sulfate, filtration, and concentration on a rotary evaporator, the product was purified by distillation (fraction with b.p. 74-76° C./2 mm Hg) to yield 47.12 g (72%) of 2-(2-methyl-[1,3]dioxolan-2-yl)-propionic acid ethyl ester.

reactant | 2-methyl-3-oxo-butyric acid ethyl ester | 0.347 mol, 50 g | C(C)OC(C(C(C)=O)C)=O | C7H12O3
reactant | ethylene glycol | 1.05 mol, 65 g | C(CO)O | C2H6O2
reactant | water | 6.3 mL | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(2-methyl-[1,3]dioxolan-2-yl)-propionic acid ethyl ester | 47.12 g, 72% | C(C)OC(C(C)C1(OCCO1)C)=O | C9H16O4
